US06358971B1
2-Trifluoroacetamido-3-isopropylthio-6-benzoyl-imidazo[1,2-a]pyridine
The 2-trifluoroacetamido-3-iodo-6-benzoyl-imidazo[1,2-a]pyridine (100 mg, 0.22 mmol) was dissolved in dry pyridine (10 ml) at RT under an argon atmosphere. Copper bronze (21 mg, 0.33 mmol) was added followed by diisopropyl disulfide (35 μl, 0.22 mmol). The mixture was stirred and heated at 100-102° C. for 83 hours. The reaction was cooled to RT, poured onto 1 L of EtOAc and stirred for 1 hour. A 9:1 solution of NH4Cl/NH4OH (750 ml) was then added and the mixture stirred for 15 minutes with a mechanical stirrer. The aqueous layer turned light-blue and the organic extract was washed again with 750 ml of the 9:1 NH4Cl/NH4OH solution (15 minutes) followed by brine (750 ml). The EtOAc was removed in vacuo and the residue was purified by flash chromatography (EtOAc:Hexane 1:1). The product was obtained as a brown oil in 20% yield (18 mg). 1H-NMR, 13C-NMR.

reactant | 2-trifluoroacetamido-3-iodo-6-benzoyl-imidazo[1,2-a]pyridine | 0.22 mmol, 100 mg | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1I)(F)F | C16H9F3IN3O2
reactant | diisopropyl disulfide | 0.22 mmol, 35 μl | C(C)(C)SSC(C)C | C6H14S2
reactant | EtOAc | 1 L | CCOC(=O)C | C4H8O2
reactant | NH4Cl NH4OH | 750 ml | [NH4+].[Cl-].[NH4+].[OH-]
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
catalyst | Copper bronze | 0.33 mmol, 21 mg | [Cu] | Cu
product | 2-Trifluoroacetamido-3-isopropylthio-6-benzoyl-imidazo[1,2-a]pyridine | 20% yield | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1SC(C)C)(F)F | C19H16F3N3O2S
